* Subcircuit 74LS299_sub
.subckt 74LS299_sub net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ unconnected-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ unconnected-_u1-pad20_ 
.title kicad schematic
.include 74153.sub
x3 net-_u6-pad5_ net-_u5-pad5_ net-_u7-pad5_ net-_u1-pad5_ net-_u1-pad2_ net-_u7-pad5_ net-_u6-pad5_ net-_u8-pad5_ net-_u1-pad15_ net-_u1-pad3_ net-_u1-pad19_ net-_u1-pad1_ net-_u6-pad1_ net-_u7-pad1_ 74153
* u6 net-_u6-pad1_ net-_u1-pad12_ unconnected-_u6-pad3_ net-_u1-pad9_ net-_u6-pad5_ unconnected-_u6-pad6_ d_dff
x4 net-_u8-pad5_ net-_u7-pad5_ net-_u1-pad17_ net-_u1-pad4_ net-_u1-pad2_ net-_u1-pad17_ net-_u8-pad5_ net-_u1-pad18_ net-_u1-pad16_ net-_u1-pad3_ net-_u1-pad19_ net-_u1-pad1_ net-_u8-pad1_ net-_u9-pad1_ 74153
* u7 net-_u7-pad1_ net-_u1-pad12_ unconnected-_u7-pad3_ net-_u1-pad9_ net-_u7-pad5_ unconnected-_u7-pad6_ d_dff
* u8 net-_u8-pad1_ net-_u1-pad12_ unconnected-_u8-pad3_ net-_u1-pad9_ net-_u8-pad5_ unconnected-_u8-pad6_ d_dff
* u9 net-_u9-pad1_ net-_u1-pad12_ unconnected-_u9-pad3_ net-_u1-pad9_ net-_u1-pad17_ unconnected-_u9-pad6_ d_dff
* u4 net-_u4-pad1_ net-_u1-pad12_ unconnected-_u4-pad3_ net-_u1-pad9_ net-_u4-pad5_ unconnected-_u4-pad6_ d_dff
* u3 net-_u3-pad1_ net-_u1-pad12_ unconnected-_u3-pad3_ net-_u1-pad9_ net-_u3-pad5_ unconnected-_u3-pad6_ d_dff
* u5 net-_u5-pad1_ net-_u1-pad12_ unconnected-_u5-pad3_ net-_u1-pad9_ net-_u5-pad5_ unconnected-_u5-pad6_ d_dff
x2 net-_u4-pad5_ net-_u3-pad5_ net-_u5-pad5_ net-_u1-pad6_ net-_u1-pad2_ net-_u5-pad5_ net-_u4-pad5_ net-_u6-pad5_ net-_u1-pad14_ net-_u1-pad3_ net-_u1-pad19_ net-_u1-pad1_ net-_u4-pad1_ net-_u5-pad1_ 74153
* u2 net-_u2-pad1_ net-_u1-pad12_ unconnected-_u2-pad3_ net-_u1-pad9_ net-_u1-pad8_ unconnected-_u2-pad6_ d_dff
x1 net-_u1-pad8_ net-_u1-pad11_ net-_u3-pad5_ net-_u1-pad7_ net-_u1-pad2_ net-_u3-pad5_ net-_u1-pad8_ net-_u4-pad5_ net-_u1-pad13_ net-_u1-pad3_ net-_u1-pad19_ net-_u1-pad1_ net-_u2-pad1_ net-_u3-pad1_ 74153
a1 net-_u6-pad1_ net-_u1-pad12_ unconnected-_u6-pad3_ net-_u1-pad9_ net-_u6-pad5_ unconnected-_u6-pad6_ u6
a2 net-_u7-pad1_ net-_u1-pad12_ unconnected-_u7-pad3_ net-_u1-pad9_ net-_u7-pad5_ unconnected-_u7-pad6_ u7
a3 net-_u8-pad1_ net-_u1-pad12_ unconnected-_u8-pad3_ net-_u1-pad9_ net-_u8-pad5_ unconnected-_u8-pad6_ u8
a4 net-_u9-pad1_ net-_u1-pad12_ unconnected-_u9-pad3_ net-_u1-pad9_ net-_u1-pad17_ unconnected-_u9-pad6_ u9
a5 net-_u4-pad1_ net-_u1-pad12_ unconnected-_u4-pad3_ net-_u1-pad9_ net-_u4-pad5_ unconnected-_u4-pad6_ u4
a6 net-_u3-pad1_ net-_u1-pad12_ unconnected-_u3-pad3_ net-_u1-pad9_ net-_u3-pad5_ unconnected-_u3-pad6_ u3
a7 net-_u5-pad1_ net-_u1-pad12_ unconnected-_u5-pad3_ net-_u1-pad9_ net-_u5-pad5_ unconnected-_u5-pad6_ u5
a8 net-_u2-pad1_ net-_u1-pad12_ unconnected-_u2-pad3_ net-_u1-pad9_ net-_u1-pad8_ unconnected-_u2-pad6_ u2
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u6 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u7 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u8 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u9 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u4 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u3 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u5 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u2 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Control Statements

.ends 74LS299_sub