.title kicad schematic

.include PNP.lib
.include D.lib
.include NPN.lib
d12 net-_d12-pad1_ net-_d11-pad2_ 1N4148
i12 net-_i12-pad1_ net-_i1-pad2_  dc 2mA
i15 net-_d15-pad1_ net-_i1-pad2_  dc 2mA
i16 net-_i16-pad1_ net-_i1-pad2_  dc 2mA
d15 net-_d15-pad1_ net-_d15-pad2_ 1N4148
d16 net-_d16-pad1_ net-_d15-pad2_ 1N4148
q29 gnd net-_d16-pad1_ net-_d15-pad2_ Q2N2907A
q27 net-_q25-pad1_ net-_d15-pad2_ net-_i12-pad1_ Q2N2907A
q21 net-_q21-pad1_ net-_d11-pad2_ net-_i12-pad1_ Q2N2907A
* u1 net-_q16-pad1_ net-_q15-pad1_ net-_i1-pad2_ net-_d6-pad1_ net-_d1-pad1_ net-_d8-pad1_ net-_d2-pad1_ net-_d14-pad1_ net-_d9-pad1_ net-_d16-pad1_ net-_d11-pad1_ gnd net-_q32-pad1_ net-_q30-pad1_ port
q22 net-_q21-pad1_ net-_q21-pad1_ gnd Q2N2222
q19 gnd net-_d11-pad1_ net-_d11-pad2_ Q2N2907A
i10 net-_d12-pad1_ net-_i1-pad2_  dc 2mA
d11 net-_d11-pad1_ net-_d11-pad2_ 1N4148
q30 net-_q30-pad1_ net-_i14-pad1_ gnd Q2N2222
q28 net-_i14-pad1_ net-_q23-pad1_ gnd Q2N2222
q23 net-_q23-pad1_ net-_q18-pad1_ gnd Q2N2222
q20 net-_q18-pad1_ net-_q18-pad1_ gnd Q2N2222
q32 net-_q32-pad1_ net-_i16-pad1_ gnd Q2N2222
q25 net-_q25-pad1_ net-_q21-pad1_ gnd Q2N2222
q31 net-_i16-pad1_ net-_q25-pad1_ gnd Q2N2222
q26 gnd net-_d14-pad1_ net-_d13-pad2_ Q2N2907A
d14 net-_d14-pad1_ net-_d13-pad2_ 1N4148
d13 net-_d13-pad1_ net-_d13-pad2_ 1N4148
i14 net-_i14-pad1_ net-_i1-pad2_  dc 2mA
i13 net-_d13-pad1_ net-_i1-pad2_  dc 2mA
i11 net-_i11-pad1_ net-_i1-pad2_  dc 2mA
q24 net-_q23-pad1_ net-_d13-pad2_ net-_i11-pad1_ Q2N2907A
q18 net-_q18-pad1_ net-_d10-pad2_ net-_i11-pad1_ Q2N2907A
q17 gnd net-_d9-pad1_ net-_d10-pad2_ Q2N2907A
d10 net-_d10-pad1_ net-_d10-pad2_ 1N4148
d9 net-_d9-pad1_ net-_d10-pad2_ 1N4148
i9 net-_d10-pad1_ net-_i1-pad2_  dc 2mA
i6 net-_d7-pad1_ net-_i1-pad2_  dc 2mA
i8 net-_i8-pad1_ net-_i1-pad2_  dc 2mA
d7 net-_d7-pad1_ net-_d7-pad2_ 1N4148
i4 net-_i4-pad1_ net-_i1-pad2_  dc 2mA
i2 net-_d4-pad1_ net-_i1-pad2_  dc 2mA
d4 net-_d4-pad1_ net-_d2-pad2_ 1N4148
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
q3 net-_q3-pad1_ net-_d1-pad2_ net-_i3-pad1_ Q2N2907A
q8 net-_q12-pad2_ net-_d5-pad2_ net-_i3-pad1_ Q2N2907A
d3 net-_d3-pad1_ net-_d1-pad2_ 1N4148
i3 net-_i3-pad1_ net-_i1-pad2_  dc 2mA
i1 net-_d3-pad1_ net-_i1-pad2_  dc 2mA
q11 gnd net-_d6-pad1_ net-_d5-pad2_ Q2N2907A
q1 gnd net-_d1-pad1_ net-_d1-pad2_ Q2N2907A
q7 net-_q12-pad2_ net-_q3-pad1_ gnd Q2N2222
q4 net-_q3-pad1_ net-_q3-pad1_ gnd Q2N2222
d6 net-_d6-pad1_ net-_d5-pad2_ 1N4148
i7 net-_i7-pad1_ net-_i1-pad2_  dc 2mA
i5 net-_d5-pad1_ net-_i1-pad2_  dc 2mA
d5 net-_d5-pad1_ net-_d5-pad2_ 1N4148
q12 net-_i7-pad1_ net-_q12-pad2_ gnd Q2N2907A
q15 net-_q15-pad1_ net-_i7-pad1_ gnd Q2N2222
q9 net-_q10-pad1_ net-_q5-pad1_ gnd Q2N2222
q6 net-_q5-pad1_ net-_q5-pad1_ gnd Q2N2222
q2 gnd net-_d2-pad1_ net-_d2-pad2_ Q2N2907A
q10 net-_q10-pad1_ net-_d7-pad2_ net-_i4-pad1_ Q2N2907A
q5 net-_q5-pad1_ net-_d2-pad2_ net-_i4-pad1_ Q2N2907A
d2 net-_d2-pad1_ net-_d2-pad2_ 1N4148
q13 gnd net-_d8-pad1_ net-_d7-pad2_ Q2N2222
d8 net-_d8-pad1_ net-_d7-pad2_ 1N4148
q14 net-_i8-pad1_ net-_q10-pad1_ gnd Q2N2222
q16 net-_q16-pad1_ net-_i8-pad1_ gnd Q2N2222
.tran 0e-03 0e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
