.title kicad schematic

.include NPN.lib
.include PNP.lib
* u1 net-_q16-pad1_ net-_q15-pad1_ net-_q10-pad3_ net-_q11-pad2_ net-_q1-pad2_ net-_q12-pad2_ net-_q2-pad2_ net-_q26-pad2_ net-_q17-pad2_ net-_q29-pad2_ net-_q19-pad2_ net-_q1-pad1_ net-_q32-pad1_ net-_q30-pad1_ port
q32 net-_q32-pad1_ net-_q10-pad3_ net-_q1-pad1_ Q2N2222
q31 net-_q10-pad3_ net-_q25-pad1_ net-_q1-pad1_ Q2N2222
q28 net-_q10-pad3_ net-_q23-pad1_ net-_q1-pad1_ Q2N2222
q30 net-_q30-pad1_ net-_q10-pad3_ net-_q1-pad1_ Q2N2222
q19 net-_q1-pad1_ net-_q19-pad2_ net-_q19-pad3_ Q2N2907A
q22 net-_q21-pad1_ net-_q21-pad1_ net-_q1-pad1_ Q2N2222
q27 net-_q25-pad1_ net-_q27-pad2_ net-_q10-pad3_ Q2N2907A
q21 net-_q21-pad1_ net-_q19-pad3_ net-_q10-pad3_ Q2N2907A
q7 net-_q13-pad2_ net-_q3-pad1_ net-_q1-pad1_ Q2N2222
q4 net-_q3-pad1_ net-_q3-pad1_ net-_q1-pad1_ Q2N2222
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2907A
q11 net-_q1-pad1_ net-_q11-pad2_ net-_q11-pad3_ Q2N2907A
q8 net-_q13-pad2_ net-_q11-pad3_ net-_q10-pad3_ Q2N2907A
q3 net-_q3-pad1_ net-_q1-pad3_ net-_q10-pad3_ Q2N2907A
q13 net-_q10-pad3_ net-_q13-pad2_ net-_q1-pad1_ Q2N2222
q15 net-_q15-pad1_ net-_q10-pad3_ net-_q1-pad1_ Q2N2222
q20 net-_q18-pad1_ net-_q18-pad1_ net-_q1-pad1_ Q2N2222
q23 net-_q23-pad1_ net-_q18-pad1_ net-_q1-pad1_ Q2N2222
q24 net-_q23-pad1_ net-_q24-pad2_ net-_q10-pad3_ Q2N2907A
q17 net-_q1-pad1_ net-_q17-pad2_ net-_q17-pad3_ Q2N2907A
q26 net-_q1-pad1_ net-_q26-pad2_ net-_q24-pad2_ Q2N2907A
q18 net-_q18-pad1_ net-_q17-pad3_ net-_q10-pad3_ Q2N2907A
q14 net-_q10-pad3_ net-_q10-pad1_ net-_q1-pad1_ Q2N2222
q16 net-_q16-pad1_ net-_q10-pad3_ net-_q1-pad1_ Q2N2222
q12 net-_q1-pad1_ net-_q12-pad2_ net-_q10-pad2_ Q2N2907A
q9 net-_q10-pad1_ net-_q5-pad1_ net-_q1-pad1_ Q2N2222
q6 net-_q5-pad1_ net-_q5-pad1_ net-_q1-pad1_ Q2N2222
q2 net-_q1-pad1_ net-_q2-pad2_ net-_q2-pad3_ Q2N2907A
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2907A
q5 net-_q5-pad1_ net-_q2-pad3_ net-_q10-pad3_ Q2N2907A
q25 net-_q25-pad1_ net-_q21-pad1_ net-_q1-pad1_ Q2N2222
q29 net-_q1-pad1_ net-_q29-pad2_ net-_q27-pad2_ Q2N2907A
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
